US05908841
A mixture of N-(2-chloro-3-pyridinyl)-N-methyl-2-methylnicotinamide (1.86 g) and H2O2 (30%, 5 mL) in acetic acid (10 mL) was heated at 110° C. for 75 minutes. The solvents were evaporated under reduced pressure. Chromatography of the residue over basic alumina (chloroform/ethanol) gave N-(2-chloro-3-pyridinyl)-N-methyl-2-methylnicotinamide N-oxide as an oil which crystallized on trituration with isopropyl ether/ethyl acetate, (1.42 g).

reactant | N-(2-chloro-3-pyridinyl)-N-methyl-2-methylnicotinamide | 1.86 g | ClC1=NC=CC=C1N(C(C1=C(N=CC=C1)C)=O)C | C13H12ClN3O
reactant | H2O2 | 5 mL | OO | H2O2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | N-(2-chloro-3-pyridinyl)-N-methyl-2-methylnicotinamide N-oxide | ClC1=NC=CC=C1[N+](C(C1=C(N=CC=C1)C)=O)(C)[O-] | C13H12ClN3O2
